US07449475B2
4-[(4-Methoxybenzyl)oxy]-N-methyl-2-{[(2S)-2-methyloxiran-2-yl]methoxy]benzamide
A mixture of [(2S)-2-methyloxiran-2-yl]methyl3-nitrobenzenesulfonate (133 mg, 0.487 mmol), 2-hydroxy-4-[(4-methoxybenzyl)oxy]-N-methylbenzamide (140 mg, 0.487 mmol) and cesium carbonate, Cs2CO3, (198 mg, 0.608 mmol) in dimethylformamide (5 mL) was kept on stirring at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over sodium sulphate, Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (0-60% ethyl acetate in petroleum ether) to give the subtitled compound (130 mg).

reactant | [(2S)-2-methyloxiran-2-yl]methyl3-nitrobenzenesulfonate | 0.487 mmol, 133 mg | C[C@@]1(OC1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C10H11NO6S
reactant | 2-hydroxy-4-[(4-methoxybenzyl)oxy]-N-methylbenzamide | 0.487 mmol, 140 mg | OC1=C(C(=O)NC)C=CC(=C1)OCC1=CC=C(C=C1)OC | C16H17NO4
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Cs2CO3 | 0.608 mmol, 198 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[(4-Methoxybenzyl)oxy]-N-methyl-2-{[(2S)-2-methyloxiran-2-yl]methoxy]benzamide | 130 mg | COC1=CC=C(COC2=CC(=C(C(=O)NC)C=C2)OC[C@]2(OC2)C)C=C1 | C20H23NO5
